US06331538B1
6-Fluoro-1-(4-fluorophenyl)-3-hydroxy-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Twenty percent Pd/C (70 mg) was added to a solution of 3-benzyloxy-6-fluoro-1-(4-fluorophenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example N-4, 0.15 g, 0.33 mmol) in 25 mL of THF, and this was shaken under 50 PSI of hydrogen for 17.5 hours. The mixture was filtered and concentrated to give 0.13 g of the title compound as a solid, mp 172-174° C.

reactant | 3-benzyloxy-6-fluoro-1-(4-fluorophenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.33 mmol, 0.15 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)C2=CC=C(C=C2)F)=O | C24H20F2N4O3
reactant | hydrogen | [H][H] | H2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 6-Fluoro-1-(4-fluorophenyl)-3-hydroxy-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.13 g | FC1=CC2=C(N(C(N(C2=O)O)=O)C2=CC=C(C=C2)F)N=C1N1CCCC1 | C17H14F2N4O3
